US09029371B2
To a solution of 2-benzylamino-1-(4-bromo-phenyl)-ethanol (18.95 g; 62 mmol) and Et3N (9.6 mL; 68 mmol) in CH2Cl2 (500 mL) was added dropwise a solution of chloroacetyl chloride (5.4 mL; 68 mmol) in CH2Cl2 (20 mL), at 0° C. After 1 hour at 0° C. the reaction mixture was quenched with 1M aqueous HCl (200 mL). The layers were separated and the organic layer washed with a 5% aqueous NaHCO3 solution, dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in 2-propanol (200 mL) and KOH (4.2 g; 75 mmol) was added. The resulting mixture was stirred at RT for 3 hours and subsequently concentrated in vacuo. The crude product was partitioned between CH2Cl2 and 1M aqueous HCl. The layers were separated and the organic layer was washed with saturated aqueous NaHCO3 solution, dried (Na2SO4) and evaporated in vacuo to afford 4-benzyl-6-(4-bromo-phenyl)-morpholin-3-one (22.30 g) which was used as such in the next step.

reactant | 2-benzylamino-1-(4-bromo-phenyl)-ethanol | 62 mmol, 18.95 g | C(C1=CC=CC=C1)NCC(O)C1=CC=C(C=C1)Br | C15H16BrNO
reactant | Et3N | 68 mmol, 9.6 mL | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | 68 mmol, 5.4 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | KOH | 75 mmol, 4.2 g | [OH-].[K+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-benzyl-6-(4-bromo-phenyl)-morpholin-3-one | 22.30 g | C(C1=CC=CC=C1)N1C(COC(C1)C1=CC=C(C=C1)Br)=O | C17H16BrNO2
